US07001897B2
To a solution of 3-t-butyldiphenylsilyloxy-1-(4-succinimidomethyl-1,3-thiazol-2-yl)azetidine (1.79 g, 3.53 mmol) (obtained as described in Reference Example 69(1)) in anhydrous tetrahydrofuran (141 ml) was added a solution of 1.0 M tetra-n-butylammonium fluoride in tetrahydrofuran (4.24 ml, 4.24 mmol) in an ice bath and the mixture was stirred in an ice bath for 1 hour. After checking the completion of the reaction, the mixture was partitioned between ethyl acetate and saturated aqueous sodium hydrogencarbonate solution. The organic layer was washed with saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The residue was purified by chromatography on a silica gel column using ethyl acetate→ethyl acetate:methanol (20:1) as the eluant to afford 3-hydroxy-1-(4-succinimidomethyl-1,3-thiazol-2-yl)azetidine (456 mg, yield 49%) as a white solid.

reactant | 3-t-butyldiphenylsilyloxy-1-(4-succinimidomethyl-1,3-thiazol-2-yl)azetidine | 3.53 mmol, 1.79 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1CN(C1)C=1SC=C(N1)CN1C(CCC1=O)=O | C27H31N3O3SSi
reactant | tetra-n-butylammonium fluoride | 1.0 M | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 141 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 4.24 mmol, 4.24 ml | O1CCCC1 | C4H8O
product | 3-hydroxy-1-(4-succinimidomethyl-1,3-thiazol-2-yl)azetidine | 456 mg, yield 49% | OC1CN(C1)C=1SC=C(N1)CN1C(CCC1=O)=O | C11H13N3O3S
